US05863947
A stirred mixture of 4-cyano-2-fluorobenzaldehyde (2.23 g, 15 mmol), phenol (1.6 g, 17 mmol) and potassium carbonate (2.35 g, 17 mmol) in dried dimethylformamide (15 ml) was heated to 120° C. for 1 hour. After cooling, the mixture was diluted with water (50 ml) and extracted with diethyl ether (2×25 ml). The extracts were washed with 0.1M sodium hydroxide (2×50 ml), brine (50 ml), dried, filtered and evaporated to a yellow oil. Flash chromatography on silica, eluting with diethyl ether:hexane 1:1, gave 4-cyano-2-phenoxybenzaldehyde as a yellow oil that crystallised on standing.

reactant | 4-cyano-2-fluorobenzaldehyde | 15 mmol, 2.23 g | C(#N)C1=CC(=C(C=O)C=C1)F | C8H4FNO
reactant | phenol | 17 mmol, 1.6 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 17 mmol, 2.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 4-cyano-2-phenoxybenzaldehyde | C(#N)C1=CC(=C(C=O)C=C1)OC1=CC=CC=C1 | C14H9NO2
